US04968721
2,2-Dimethyl-N-[2-[2-methylamino-2-(2-methylphenyl)ethyl]phenyl]propanamide (12 g) was treated with 60 ml of 6N hydrochloric acid solution. After refluxing and stirring for 8 hr, the solution was decanted over 100 g of ice and basified with 25 ml of a 50% sodium hydroxide solution. The aqueous mixture was extracted with dichloromethane, and the organic phase was dried over anhydrous sodium sulfate, filtered and concentrated. Purification was accomplished by preparative HPLC (silica gel, eluted with methanol). The appropriate fractions were collected, combined and concentrated. The residue was dissolved in methanol, treated with ethereal hydrogen chloride and diluted with anhydrous ether to afford 2-amino-N-methyl-α-(2-methylphenyl)phenethylamine dihydrochloride, mp 242°-245° C.

reactant | 2,2-Dimethyl-N-[2-[2-methylamino-2-(2-methylphenyl)ethyl]phenyl]propanamide | 12 g | CC(C(=O)NC1=C(C=CC=C1)CC(C1=C(C=CC=C1)C)NC)(C)C | C21H28N2O
reactant | hydrochloric acid | 6N, 60 ml | Cl | ClH
product | 2-amino-N-methyl-α-(2-methylphenyl)phenethylamine dihydrochloride | Cl.Cl.NC1=C(CC(C2=C(C=CC=C2)C)NC)C=CC=C1 | InChI=1S/C16H20N2.2ClH/c1-12-7-3-5-9-14(12)16(18-2)11-13-8-4-6-10-15(13)17;;/h3-10,16,18H,11,17H2,1-2H3;2*1H
